US08957252B2
Preparation of tert-butyl [(1R)-2-(benzylamino)-1-(hydroxymethyl)-2-oxoethyl]carbamate.
To a solution of (2R)-2-amino-N-benzyl-3-hydroxypropanamide (34.0 gms) in ethyl acetate (170 ml), charged di-tert-butyl dicarbonate (45.89 gms) and stirred for 1.0 hour at 25-30° C. Charged triethylamine (1.77 gms) and stirred further for 1 hr at 25-30° C. After completion of reaction, concentrated the reaction mass under reduced pressure at 30-35° C. till 1 volume of ethyl acetate remained inside the reaction mass. Removed vacuum and charged cyclohexane (102 ml) and concentrated under reduced pressure till one volume of the solvent remained in the reaction mass. Charged cyclohexane (272 ml) and stirred at 25-30° C. for 1 hr. Filtered the reaction mass and washed with fresh cyclohexane. Dried the product Tert-butyl [(1R)-2-(benzylamino)-1-(hydroxymethyl)-2-oxoethyl] carbamate at 50-55° C. till constant weight.

reactant | (2R)-2-amino-N-benzyl-3-hydroxypropanamide | 34.0 gms | N[C@@H](C(=O)NCC1=CC=CC=C1)CO | C10H14N2O2
reactant | di-tert-butyl dicarbonate | 45.89 gms | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.77 gms | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 170 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1R)-2-(benzylamino)-1-(hydroxymethyl)-2-oxoethyl]carbamate | C(C1=CC=CC=C1)NC([C@@H](CO)NC(OC(C)(C)C)=O)=O | C15H22N2O4
